US04749812
To 90 ml of benzene were added 1.0 g (5.9/1000 mole) of 3-chloro-4-isopropylaniline, 0.7 g of triethylamine, and 0.8 g (6.8/1000 mole) of 1-methylcyclopropanecarboxylic acid chloride. The mixture was stirred for 1 hour at 5° to 10° C. The precipitated crystals were separated by filtration, and the filtrate was washed with a saturated aqueous solution of sodium hydrogen carbonate and dried over anhydrous sodium sulfate. The resulting dried filtrate was concentrated by an evaporator. The resulting oily product was isolated and purified by silica gel column chromatography [eluent: benzene/ethyl acetate=40/1 (v/v)] to give 1.3 g of N-(3-chloro-4-isopropylphenyl)-1-methylcyclopropanecarboxamide as an oil in a yield of 87.6 % based on 3-chloro-4-isopropylaniline. On standing for a long period of time, the oil crystallized.

reactant | benzene | 90 ml | C1=CC=CC=C1 | C6H6
reactant | 3-chloro-4-isopropylaniline | 1000 mole, 1.0 g | ClC=1C=C(N)C=CC1C(C)C | C9H12ClN
reactant | 1-methylcyclopropanecarboxylic acid chloride | 1000 mole, 0.8 g | CC1(CC1)C(=O)Cl | C5H7ClO
solvent | triethylamine | 0.7 g | C(C)N(CC)CC | C6H15N
product | N-(3-chloro-4-isopropylphenyl)-1-methylcyclopropanecarboxamide | 1.3 g, yield of 87.6 % | ClC=1C=C(C=CC1C(C)C)NC(=O)C1(CC1)C | C14H18ClNO
